Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14].[H:1],6.08503367595
[H:1][C:2][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:3][C:4][H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-8.61748524
[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C@@:3]1([H:4])[C:5]([H:6])[C:7]([H:8])=[C:9]1[C:10]([H:11])([H:12])[H:13],-0.34232850797
[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-4.12491743203
[C:4]#[C:5][H:6].[H:1][C:2]#[C:3][O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]=[C:3]([C:4]#[C:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11],-3.16882279104
[C:1]#[C:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13].[H:9],2.75237218811
[H:1][C:2]#[C:3][O:4][C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3][O:4][C:5][C:8]([H:9])([H:10])[H:11].[O:6][H:7],5.42111885284
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13].[H:3],1.99126859405
[C:10]([H:11])[H:12].[H:1][O:2][C:3]([C:4][C:5]([H:6])([H:7])[H:8])=[O:9]>>[H:1][O:2]/[C:3](=[C:4]/[C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])[H:12],-2.93656323473
[C:7]([H:8])[H:9].[H:1][O:2][C:3]([H:4])([H:5])[C:6]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9],-7.58462535947
[H:1][C:2](=[C:3][H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]1=[C:3]([H:4])[C:5]1([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],0.55674967045
[H:1][C:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[O:14][H:15]>>[C:9]([H:10])([H:11])=[C:12]([H:13])[O:14][H:15].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[H:8],-1.68920274118
[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][O:2][C@:3]1([H:4])[C:5][O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13].[H:6],3.76084748856
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][O:3][C:4]([C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.17383897124
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]#[C:9][C:10]([H:11])([H:12])[H:13].[H:8]>>[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-1.81365515485
[C:1]#[C:2][C:3]1([H:4])[O:5][O:6]1>>[C:1]#[C:2][C:3]([H:4])[O:5][O:6],-0.0815277588698999
[C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[H:7])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])([H:4])[C:5][C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-1.37506303491
[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:3].[O:1][C:2]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],1.67890790459
[O:1]=[C:2]=[C:3]([O:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:7].[O:1]=[C:2]=[C:3]([O:4][C:5][H:6])[C:8]([H:9])([H:10])[H:11],3.91063413712
[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2][H:3].[O:4]=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],1.63093447114
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:9][C:10]([H:11])([H:12])[H:13].[H:8]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-1.79399960271
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[C:5]#[C:6]>>[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-5.59807099085
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])[H:11]>>[H:1][O:2][C:3][C:4]([H:5])[C:7]#[C:8][C:9]([H:10])[H:11].[H:6],2.25787048748
[O:1]=[C:2]=[C:7]([C:5](=[C:4]=[O:3])[H:6])[H:8]>>[O:1]=[C:2]1[O:3][C:4]=[C:5]([H:6])[C:7]1[H:8],1.36806070618
[H:9].[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9],-1.99291442957
[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][O:8]>>[C:1][C:2]1[C:3]([H:4])[C@@:5]1([H:6])[O:7][O:8],1.2048924983700002
[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3](=[C:4])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-7.3523772635899975
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8][H:9].[O:10][H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[O:10][H:11],-5.24050336001
[C:1]=[C:2]([H:3])[C:4]([O:5][H:6])[C:7](=[O:8])[H:9]>>[C:1]#[C:2][H:3].[C:4]([O:5][H:6])[C:7](=[O:8])[H:9],4.31949255425
